Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
latex
 
Attending: ___
 
Chief Complaint:
Hydrocephalus 
 
Major Surgical or Invasive Procedure:
___ - Right frontal EVD placement 
___ - Right frontal EVD removal
___ - Left VPS placement

 
History of Present Illness:
___ male known to the Neurosurgery service presents back 
to the ___ ED as transfer from OSH with complaints of ongoing 
headaches with blurry vision and outpatient ophthalmologist 
report of papilledema. Of note, the patient had
hydrocephalus in infancy that was treated with surgical 
placement of ___ port, which was revised at 3 months and ___ 
years old. He was admitted to the Neurosurgery service from 
___ at ___ with ventriculomegaly compared to a Head CT 
from ___. He represented in ___ with increased headaches 
that improved with lying flat. He was admitted to the neurology 
service at that
time for headache management. He was evaluated by ophthalmology 
during that admission and no papilledema was noted. Patient 
presents to ___ ED today on ___ with blurry vision in both 
eyes left worse than right progressing over the last 2 weeks and 
increased frequency of intermittent headaches. He was seen at 
his outpatient ophthalmologist Dr. ___ at ___ 
today
who referred him to ___ ED for papilledema, "OS more than OD." 
Neurosurgery was consulted for recommendations.
 
Past Medical History:
Hydrocephalus s/p Rickham port initially at the age of ___,
revised at ___ years old and then ___ years old in ___ 
___
Hyperlipidema 
Dysthymia 
 
Social History:
___
Family History:
No fx of migraines

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Gen: WD/WN, comfortable, NAD.
HEENT: no erythema, edema or drainage
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested.
___: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

PHYSICAL EXAMINATION ON DISCHARGE:
Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils: PERRL 4-3mm bilaterally
Blurry vision is stable, L>R

EOM: [x]Full [ ]Restricted
Horizontal nystagmus bilaterally 2 beats

Face Symmetric: [x]Yes [ ]No

Tongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No

Speech Fluent: [x]Yes [ ]No
Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
___

[x]Sensation intact to light touch in all four extremities. 

Wound: 
VPS incision OTA with sutures
Right EVD site open to air with staples in place

 
Pertinent Results:
See OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
#Papilledema with hydrocephalus
The patient was admitted to the Neuro ICU under Neurosurgery 
with Hydrocephalus after ophthalmology noted papilledema on 
exam. A right frontal EVD was placed under conscious sedation 
that was opened up at 15mm above the tragus. After the EVD was 
placed his headache improved. He underwent a repeat NCHCT on 
___ that showed stable hydrocephalus, so his drain was dropped 
and opened at 10. At that time, his vision remained blurry 
although his headache had improved. He was evaluated by 
Ophthalmology who recommended sending CSF to rule out 
meningitis, a MRI Brain and Orbit with MPRAGE to rule out venous 
sinus thrombosis. MRI brain and Orbit with MPRAGE showed 
continued papilledema and was negative for VST. On ___, CSF 
cultures showed 3+ PMNLs but no growth on final culture. The 
patient was transferred from the Neuro ICU to the ___ on ___. 
On ___, the patient remained neurologically stable on 
examination. On ___, the patient remained neurologically 
stable. EVD was intermittently clamped for high output, however 
was re-opened due to visual changes. On ___, the patient 
remained neurologically stable on examination. Ophthamology was 
consulted to re-evaluate for papilledema. A CSF sample was sent 
for gram stain and culture, which showed no growth. In the 
afternoon, the patient suffered a sudden onset HA and underwent 
a STAT CT head which was stable. On ___, the patient remained 
neurologically stable on examination. He stated that his 
headache and dizziness were markedly improved. The patient 
underwent a pre-op work-up in anticipation for surgical 
placement of a VP shunt the next day. On ___, EVD was clamped 
in anticipation of VP shunt placement in the afternoon. Patient 
did not tolerate EVD being clamped, ICPs sustained in ___. EVD 
was re-opened at 25. Repeat CT ___ was grossly stable. Patient 
underwent left frontal VP shunt placement on ___. Please see 
separate operative report in OMR by Dr. ___ further 
details. On POD 1, patient was reporting adequate pain control, 
ambulating independently, and voiding without issue. Patient was 
medically cleared for discharge home on ___ and discharged 
home in stable condition with plan for close ___ on 
___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Propranolol 20 mg PO TID 
2. Nortriptyline 10 mg PO QHS 
3. Fludrocortisone Acetate 0.1 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain - Mild/Fever 
  Reason for PRN duplicate override: . 
2.  Cepacol (Sore Throat Lozenge) 1 LOZ PO Q2H:PRN sore throat  
3.  Fludrocortisone Acetate 0.1 mg PO DAILY  
4.  Nortriptyline 10 mg PO QHS  
5.  Propranolol 20 mg PO TID  
6.Outpatient Physical Therapy Evaluate and treat

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Papilledema 
Hydrocephalus 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Discharge Instructions: Ventriculoperitoneal Shunt

Surgery
• A right frontal EVD was placed on ___ for the treatment 
of hydrocephalus. 
• You had a VP shunt placed for hydrocephalus on ___. 
Your incisions should be kept dry until sutures and staples are 
removed.
• Your shunt is a ___ Strata Valve which is programmable. 
This will need to be readjusted after all MRIs or exposure to 
large magnets.  Your shunt is programmed to 1.5. 
• It is best to keep your incision open to air but it is ok to 
cover it when outside. 
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your ___ appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• Headache or pain along your incision. 
• Some neck tenderness along the shunt tubing.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___